US05656278
ascorbic acid:
0.5 to 10%, caffeine benzoate: 0.1 to 5%, phytic acid: 0.1 to 5%, mucic acid: 0.1 to 5%, hydrolysates of vegetable proteins: 0.1 to 10%, polyglucan: 0.1 to 5%,

reactant | caffeine benzoate | C(C1=CC=CC=C1)(=O)O.N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O
reactant | phytic acid | [C@@H]1([C@@H]([C@@H]([C@@H]([C@H]([C@@H]1OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O | C6H18O24P6
reactant | mucic acid | [C@@H]([C@@H]([C@H](C(=O)O)O)O)([C@@H](C(=O)O)O)O | C6H10O8
product | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
